US07375115B2
Benzyl 1-allylcyclohexanecarboxylate
To a solution of benzyl cyclohexanecarboxylate (1.44 g) in tetrahydrofuran (40 mL) was added a 1M solution of lithium hexamethyldisilazane in tetrahydrofuran (9.9 mL) under ice cooling. The solution was stirred at room temperature for 1 hour under ice cooling, to which hexamethylphosporamide (2.3 mL) was added. The solution was then stirred for additional 10 minutes. To the solution was added allyl bromide (1.4 mL). The solution was stirred under ice cooling for 1 hour, to which allyl bromide (1.4 mL) was further added. The solution was stirred at room temperature for 18 hours. Water and 3N hydrochloric acid were added to the solution, and it was extracted with diethyl ether. The organic layer was washed in turn with water, saturated aqueous sodium bicarbonate solution and saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate, and then, concentrated under reduced pressure. The resulting residue was purified by chromatography (silica gel, hexane:ethyl acetate=99:1) to give the title compound (550 mg). This product was subjected to the subsequent step without further purification.

reactant | benzyl cyclohexanecarboxylate | 1.44 g | C1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C14H18O2
reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | allyl bromide | 1.4 mL | C(C=C)Br | C3H5Br
reactant | allyl bromide | 1.4 mL | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.9 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | Benzyl 1-allylcyclohexanecarboxylate | 550 mg | C(C=C)C1(CCCCC1)C(=O)OCC1=CC=CC=C1 | C17H22O2
